US07304081B2
(1R)-1′-[(1-{4-[4-(Methylsulfonyl)-2-oxopiperazin-1-yl]phenyl}cyclopropyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
To a solution of (1R)-1′-({1-[4-(2-oxopiperazin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (36 mg, 0.000083 mol) in acetonitrile (0.5 mL, 0.01 mol) were added triethylamine (29 μL, 0.00021 mol) and methanesulfonyl chloride. After stirring at rt for 3 hours, the crude product was isolated and purified by prep-HPLC. LC/MS: 510.2 (M+H+).

reactant | (1R)-1′-({1-[4-(2-oxopiperazin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.000083 mol, 36 mg | O=C1N(CCNC1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C25H25N3O4
reactant | acetonitrile | 0.01 mol, 0.5 mL | C(C)#N | C2H3N
reactant | triethylamine | 0.00021 mol, 29 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (1R)-1′-[(1-{4-[4-(Methylsulfonyl)-2-oxopiperazin-1-yl]phenyl}cyclopropyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | CS(=O)(=O)N1CC(N(CC1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)=O | C26H27N3O6S
